US07183270B2
2-[2-(3-Trifluoromethylphenyl)ethyl]pent-4-enoic acid ethyl ester (529 mg, 1.76 mmol) was dissolved in CH2Cl2 and cooled to −78° C. The resulting solution was treated with ozone until a light blue color was observed. The solution was degassed with N2, then polymer-supported Ph3P (3 mmol/g, 882 mg, 2.64 mmol) was added and the mixture was stirred for 3 h at room temperature. The solid was removed by filtration and rinsed with CH2Cl2. Evaporation of the filtrate provided an oil, which was purified by flash column chromatography (hexanes/ether) to give ethyl 2-((1,2,3-trioxolan-4-yl)methyl)-4-(3-(trifluoromethyl)phenyl)butanoate as a colorless oil (151 mg, 25%) and the desired ethyl 2-(2-oxoethyl)-4-(3-(trifluoromethyl)phenyl)butanoate as a colorless oil (83 mg, 16%). A solution of ethyl 2-((1,2,3-trioxolan-4-yl)methyl)-4-(3-(trifluoromethyl)phenyl)butanoate (150 mg, 431 μmol) in CH2Cl2 (20 mL) was cooled to −78° C., then Me2S (0.3 mL, 4.1 mmol) was added and the mixture was stirred for 2 d. The reaction mixture was diluted with CH2Cl2 (300 mL), washed with water (2×100 mL), and brine (100 mL), dried over Na2SO4, filtered, and evaporated to provide additional ethyl 2-(2-oxoethyl)-4-(3-(trifluoromethyl)phenyl)butanoate (123 mg): 1H NMR (300 MHz CDCl3) δ 7.50–7.30 (m, 4H), 5.26–5.20 (m, 1H), 5.14 (d, J=1.6 Hz, 1H), 5.04 (d, J=6.3 Hz, 1H), 4.37 (q, J=7.0 Hz, 2H), 2.73–2.57 (m, 3H), 2.35–1.77 (m, 4H), 1.29 (t, J=7.1 Hz, 3H); 19F NMR (282 MHz, CDCl3) δ −63.0.

reactant | 2-[2-(3-Trifluoromethylphenyl)ethyl]pent-4-enoic acid ethyl ester | 1.76 mmol, 529 mg | C(C)OC(C(CC=C)CCC1=CC(=CC=C1)C(F)(F)F)=O | C16H19F3O2
reactant | ozone | O=[O+][O-] | O3
reactant | Ph3P | 2.64 mmol, 882 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | ethyl 2-((1,2,3-trioxolan-4-yl)methyl)-4-(3-(trifluoromethyl)phenyl)butanoate | 151 mg, 25% | O1OOC(C1)CC(C(=O)OCC)CCC1=CC(=CC=C1)C(F)(F)F | C16H19F3O5
